US08486967B2
4-(3-Chloro-4-fluorophenyl)-6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)benzo[d]thiazol-2-amine
Prepared in analogy to example 207d, starting from 2-bromo-4-(3-chloro-4-fluorophenyl)-6-methylbenzo[d]thiazole and 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride. The title compound was obtained as a white solid.

reactant | 2-bromo-4-(3-chloro-4-fluorophenyl)-6-methylbenzo[d]thiazole | BrC=1SC2=C(N1)C(=CC(=C2)C)C2=CC(=C(C=C2)F)Cl | C14H8BrClFNS
reactant | 1-(6-methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride | Cl.Cl.CC1=CC(=NC=N1)N1CCC(CC1)N
product | 4-(3-Chloro-4-fluorophenyl)-6-methyl-N-(1-(6-methylpyrimidin-4-yl)piperidin-4-yl)benzo[d]thiazol-2-amine | ClC=1C=C(C=CC1F)C1=CC(=CC2=C1N=C(S2)NC2CCN(CC2)C2=NC=NC(=C2)C)C | C24H23ClFN5S
